US03944675
A. N-[β-(3,4-Dimethoxyphenyl)-ethyl]-cyclohexanecarboxamide
Dissolve 2.0 g. of cyclohexane carboxylic acid chloride in 10 ml. of ethyl ether and add to a previously prepared solution of 2.0 g. of homoveratrylamine in a mixture of 20 ml. of ethyl ether and 5.0 ml. of triethylamine. Stir the mixture for 15 minutes, then add 20 ml. of water and 25 ml. of ethyl acetate. Separate the layers and extract the aqueous layers several times with ethyl acetate. Combine the organic phases and wash with 2N hydrochloric acid, saturated sodium bicarbonate solution and water. Dry the organic layer over anhydrous sodium sulfate, filter and evaporate to a residue. Crystallize the residue from ethyl acetate to obtain the product of this step, m.p. 110°-111°C.

reactant | cyclohexane carboxylic acid chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | homoveratrylamine | C(CC1=CC(OC)=C(OC)C=C1)N | C10H15NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-[β-(3,4-Dimethoxyphenyl)-ethyl]-cyclohexanecarboxamide | COC=1C=C(C=CC1OC)CCNC(=O)C1CCCCC1 | C17H25NO3
